US07511066B2
A. Methyl 3-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]thiophene-2-carboxylate
Using methods substantially equivalent to those described in Example 12-C, methyl 3-[2-(1-tert-butoxy-carbonylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]-thiophene-2-carboxylate was prepared in a 58% yield from 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoic acid and methyl 3-aminothiophene-2-carboxylate.

reactant | methyl 3-[2-(1-tert-butoxy-carbonylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]-thiophene-2-carboxylate | C(C)(C)(C)ON1C(CC(CC1)OC1=C(C(=O)NC2=C(SC=C2)C(=O)OC)C=CC(=C1)N1CCCC1)=C=O | C27H33N3O6S
reactant | 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)O)C=CC(=C1)N1CCCC1 | C21H30N2O5
reactant | methyl 3-aminothiophene-2-carboxylate | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
product | Methyl 3-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]thiophene-2-carboxylate | 58% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)NC2=C(SC=C2)C(=O)OC)C=CC(=C1)N1CCCC1 | C27H35N3O6S
